data/pmechdb/original/mc_train_fold0/raw/train.txt
[H:20][CH:21](C(=O)CC1=CC=CC=C1)[C:22](=[O:23])N(C)C.[NH2-:10]>>[H:20][NH2:10].CN(C)[C:22](=[CH:21]C(=O)CC1=CC=CC=C1)[O-:23] 10=20;22,23=23;20,21=21,22
CC1=CC=C(C=C1)[S:20](=O)(=[O:21])Cl.CC(CC[OH:10])OS(=O)(=O)C(F)(F)F>>CC1=CC=C(C=C1)[S:20](=O)([O-:21])([OH+:10]CCC(C)OS(=O)(=O)C(F)(F)F)Cl 10=20;20,21=21
CC1([C:20](=[O:21])[C:11]([C:10](N1CC2=CC=CC=C2)(C)C)(O)[O-:12])C>>CC1([C:20]([C:10](N1CC2=CC=CC=C2)(C)C)([C:11](=[O:12])O)[O-:21])C 10,11=10,20;20,21=21;12=11
[H:20][Cl:21].CC1CC([CH:10]=[C:11]1C)C2=CC=CC=C2>>[H:20][CH:10]1C(CC([C+:11]1C)C)C2=CC=CC=C2.[Cl-:21] 10,11=10,20;20,21=21
CCCC1CC2=C([C:20](=[O:21])C1CC[C:11](=[CH2:10])[O-:12])C(=C(C=C2)OC)O.C(=O)O[Na].O.[OH2+][Na]>>CCCC1CC2=C(C(=C(C=C2)OC)O)[C:20]3(C1CC[C:11](=[O:12])[CH2:10]3)[O-:21].C(=O)O[Na].O.[OH2+][Na] 10,11=10,20;20,21=21;12=11
[CH:20](=[O:21])C(Br)(Br)Br.[OH-:10]>>[CH:20](C(Br)(Br)Br)([OH:10])[O-:21] 10=20;20,21=21
CCOC(=O)NN(C(=O)OCC)[P+:20](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3.CC(C)(C)C[OH:10].C1CC(=O)CCC1C(=O)[O-]>>CCOC(=O)NN(C(=O)OCC)[P:20](C1=CC=CC=C1)(C2=CC=CC=C2)(C3=CC=CC=C3)[OH+:10]CC(C)(C)C.C1CC(=O)CCC1C(=O)[O-] 10=20,
[H:20][O:21]C(=O)COC1=CC=CC=C1.CCOC(=O)N[N-:10]C(=O)OCC.CC(C(=O)OC(C1=CC=CC=C1)C2=CC=CC=C2)O[P+](C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5>>[H:20][N:10](C(=O)OCC)NC(=O)OCC.C1=CC=C(C=C1)OCC(=O)[O-:21].CC(C(=O)OC(C1=CC=CC=C1)C2=CC=CC=C2)O[P+](C3=CC=CC=C3)(C4=CC=CC=C4)C5=CC=CC=C5 10=20;20,21=21
[H:20][N+:21](=CC)C.CC#[C-:10]>>[H:20][C:10]#CC.CC=[N:21]C 10=20;20,21=21
C1CCC([CH:20](C1)[Br:21])Br.[OH-:10]>>C1CCC([CH:20](C1)[OH:10])Br.[Br-:21] 10=20;20,21=21
C[C:20](CCC(=O)C1=CC=CC=C1)([NH2:10])[OH2+:21].CC(=O)[O-]>>C[C:20](=[NH2+:10])CCC(=O)C1=CC=CC=C1.[OH2:21].CC(=O)[O-] 10=20;20,21=21
[H:10][AlH3-:11].C[CH:20]=[NH:21]>>[H:10][CH:20](C)[NH-:21].[AlH3:11] 10,11=10,20;20,21=21
C1=CC=C(C=C1)[N:10]=[N:20][OH2+:21]>>C1=CC=C(C=C1)[N+:10]#[N:20].[OH2:21] 10=20;20,21=21
[H:20][N+:21]1(CCCC1)C(C)(CCC2(C(=O)CCCC2=O)C)[O-].C1CC[NH:10]C1>>[H:20][NH+:10]1CCCC1.CC1(C(=O)CCCC1=O)CCC(C)([N:21]2CCCC2)[O-] 10=20;20,21=21
C[OH+:21][CH:20](C1=CC=CC=C1)[O:10]CC2C(C(C(C(O2)OC3C(CC(C(C3O)OC4C(C(C(C(O4)CN=[N+]=[N-])O)O)O)N=[N+]=[N-])N=[N+]=[N-])O)N=[N+]=[N-])O.CC1=CC=C(C=C1)S(=O)(=O)[O-].CO>>C[OH:21].C1C(C(C(C(C1N=[N+]=[N-])OC2C(C(C(C(O2)CN=[N+]=[N-])O)O)O)O)OC3C(C(C(C(O3)C[O+:10]=[CH:20]C4=CC=CC=C4)O)N=[N+]=[N-])O)N=[N+]=[N-].CC1=CC=C(C=C1)S(=O)(=O)[O-].CO 10=20;20,21=21
[H:20][OH+:21]P(O)(O)(O)I.[OH2:10]>>OP(O)(O)([OH:21])I.[H:20][OH2+:10] 10=20;20,21=21
[H:20][O+:21]=CC(C1C(OC(O1)(C)C)C(C=O)OCC2=CC=CC=C2)OCC3=CC=CC=C3.C(=O)(C(F)(F)F)[O-:10].CS>>CC1(OC(C(O1)C(C=O)OCC2=CC=CC=C2)C(C=[O:21])OCC3=CC=CC=C3)C.[H:20][O:10]C(=O)C(F)(F)F.CS 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.CC(=[O:10])C>>[H:20][O+:10]=C(C)C.OS(=O)(=O)[O-:21] 10=20;20,21=21
C(CO[C:20](=[O:21])O)[O-:10]>>C1CO[C:20]([O:10]1)(O)[O-:21] 10=20;20,21=21
C1C[C:20](=[O+:21]CCO)CCC1N2C=C(C=N2)I.[OH2:10].CC1=CC=C(C=C1)S(=O)(=O)[O-].CC(=O)C.C1=CC=NC=C1>>C1C[C:20](CCC1N2C=C(C=N2)I)([OH2+:10])[O:21]CCO.CC1=CC=C(C=C1)S(=O)(=O)[O-].CC(=O)C.C1=CC=NC=C1 10=20;20,21=21
C1=CC=C(C=C1)[P:10](C2=CC=CC=C2)C3=CC=CC=C3.[C:21](Br)(Br)(Br)[Br:20]>>C1=CC=C(C=C1)[P+:10](C2=CC=CC=C2)(C3=CC=CC=C3)[Br:20].[C-:21](Br)(Br)Br 10=20;20,21=21
CCC[C:20](=[O:21])OC1=CC=CC=C1.[OH-:10]>>CCC[C:20]([OH:10])([O-:21])OC1=CC=CC=C1 10=20;20,21=21
CCN[C:20](CCC(=O)NC)([OH:10])[OH+:21]CC>>CCN[C:20](=[OH+:10])CCC(=O)NC.CC[OH:21] 10=20;20,21=21
C1=CC(=C(C=C1)Br)CC[C:20](=[O:10])[Cl+:21][Al-](Cl)(Cl)Cl>>C1=CC(=C(C=C1)Br)CC[C:20]#[O+:10].[Al-](Cl)(Cl)(Cl)[Cl:21] 10=20;20,21=21
[H:20][C:21]1(C=C([O+:23]=[C:22]1C2=CC=CC=C2)C3=CC=CC=C3)C(=O)C4=CC=CC=C4.[OH2:10].C(F)(F)(F)S(=O)(=O)[O-]>>[H:20][OH2+:10].C1=CC=C(C=C1)C2=C[C:21](=[C:22]([O:23]2)C3=CC=CC=C3)C(=O)C4=CC=CC=C4.C(F)(F)(F)S(=O)(=O)[O-] 10=20;22,23=23;20,21=21,22
CC[CH:20](C)[Br:21].[C-:10]#N>>CC[CH:20](C)[C:10]#N.[Br-:21] 10=20;20,21=21
[H:20][O:21]C(=O)C(F)(F)F.CCC[CH:10]=[C:11](C1=C(C=CC(=C1)Br)O)[N:12]2CCCC2C3=NN=NN3.C1=CC(=CC=C1C=O)[N+](=O)[O-].O>>[H:20][CH:10](CCC)[C:11](=[N+:12]1CCCC1C2=NN=NN2)C3=C(C=CC(=C3)Br)O.C(=O)(C(F)(F)F)[O-:21].C1=CC(=CC=C1C=O)[N+](=O)[O-].O 10,11=10,20;20,21=21;12=11
[H:20][NH+:21]1C(=C(C(C(C1(C)O)C(=O)OCC)C2=C(ON=C2C)CCC3=CC(=CC=C3)Br)C(=O)OCC)C.[NH3:10].CCO.O>>[H:20][NH3+:10].CCOC(=O)C1C(C(=C([NH:21]C1(C)O)C)C(=O)OCC)C2=C(ON=C2C)CCC3=CC(=CC=C3)Br.CCO.O 10=20;20,21=21
[H:20][O:21]S(=O)(=O)O.N(=O)[O-:10].C1C2C=CC(C1(CN)O)O2.O.[Na+]>>[H:20][O:10]N=O.OS(=O)(=O)[O-:21].C1C2C=CC(C1(CN)O)O2.O.[Na+] 10=20;20,21=21
C[C+:20]=O.CO[C:11]1=[CH:10]C=CC(=C1)[N+](=O)[O-]>>C[C:20](=O)[CH:10]1C=CC(=C[C+:11]1OC)[N+](=O)[O-] 10,11=10,20
[H:20][O+:21](C1CCC2(C3CCC4(C(CCC4C3CC=C2C1)CC(C)C)C)C)[Al-](OC(C)C)(OC(C)C)OC(C)C.CC(C)[O-:10].CC(=O)C>>[H:20][O:10]C(C)C.CC(C)CC1CCC2C1(CCC3C2CC=C4C3(CCC(C4)[O:21][Al-](OC(C)C)(OC(C)C)OC(C)C)C)C.CC(=O)C 10=20;20,21=21
[CH:11]1=[CH:10]C2=CC=CC(=C2C=C1)[N+](=O)[O-].[N+:20](=O)=[O:21]>>C1=CC(=C2C=C[CH+:11][CH:10](C2=C1)[N+:20](=O)[O-:21])[N+](=O)[O-] 10,11=10,20;20,21=21
